US05248810
6,6-Difluoro-5-trifluoromethyl-5-hexenol
A solution of 3.59 g (11.28 mmol) 6,6-difluoro-5-trifluoromethyl-1-tert-butylsilyloxy-5-hexene in 50 ml methanol was treated with a teaspoon full of ion exchange resin and the mixture stirred for 3 hours at room temperature. The ion exchange resin was then filtered off and washed with methanol. The filtrate was carefully concentrated in a rotary evaporator (bath temperature=35° C.; 200 mbar). The residue was used without further purification.

reactant | 6,6-difluoro-5-trifluoromethyl-1-tert-butylsilyloxy-5-hexene | 11.28 mmol, 3.59 g | FC(=C(CCCCO[SiH2]C(C)(C)C)C(F)(F)F)F | C11H19F5OSi
solvent | methanol | 50 ml | CO | CH4O
product | 6,6-Difluoro-5-trifluoromethyl-5-hexenol | FC(=C(CCCCO)C(F)(F)F)F | C7H9F5O
